US05104894
Preparation of 3,4-Dihydroxy-6-H-dibenzo(b,d)pyran-6-one of Formula I
N,N-Diisopropyl-2',3',4'-trimethoxy-2-biphenylcarboxamide (0.94 mmol) was dissolved in dry methylene chloride (40 ml). The solution was cooled down to -78° C., BBr3 (5.6 mmol) was added slowly. Reaction was allowed to warm to room temperature over a period of 22 hours. The mixture was again cooled down to -78° C. and methanol (3 ml) was added. The reaction was warmed to room temperature over a period of 2 hours. All solvent was evaporated. The solid was extracted with chloroform. Removal of solvent gave white fluffy solid which was dissolved in glacial acetic acid (10 ml) and refluxed over night. Removal of acetic acid gave a solid, which was worked up with chloroform-water, the aqueous layer was separated and was extracted several times with chloroform. The chloroform layer was washed with satd. NaHCO3 solution. Removal of chloroform gave 77% (0.72 mmol) of solid product, which was recrystallized from methanol (m.p. 252° C.-254° C.). NMR spectrum was analyzed to be: δ6.84 (d, 1H, J=8.7 Hz, Ar--H), 7.63 (d, 1H, J=8 Jz, Ar--H), 7.82-7.89 (m 1H, Ar--H), 8.17-8.24 (t, 2H, Ar--H), 9.27 (br s, 1H, OH [D2O exchangeable]), 9.89 (br s, 1H, OH [D2O exchangeable]); MS m/z (relative intensity) 229 (M+1, 13), 228 (M+, 100), 200 (6), 126 (11), 115 (26).

reactant | N,N-Diisopropyl-2',3',4'-trimethoxy-2-biphenylcarboxamide | 0.94 mmol | C(C)(C)N(C(=O)C=1C(=CC=CC1)C1=C(C(=C(C=C1)OC)OC)OC)C(C)C | C22H29NO4
reactant | BBr3 | 5.6 mmol | B(Br)(Br)Br | BBr3
reactant | methanol | 3 ml | CO | CH4O
reactant | chloroform water | C(Cl)(Cl)Cl.O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3,4-Dihydroxy-6-H-dibenzo(b,d)pyran-6-one | 0.72 mmol, 77% | OC=1C=CC2=C(OC(C3=C2C=CC=C3)=O)C1O | C13H8O4
